US04757080
(a) 1,4-Dihydro-2,6-dimethyl-3-methoxycarbonyl-4-(2-nitrophenyl)-5-(4-phthalimido-butoxy)carbonyl-pyridine
13.7 g (55 mmol) of 2-(2-nitrobenzylidene)-acetoacetic acid methyl ester and 16.6 g (55 mmol) of 3-aminocrotonic acid-(4-phthalimido-butyl)ester are boiled in 150 ml of ethanol for 18 hours. The orange yellow oil (28.7 g-98%) obtained after removal of the solvent by evaporation under vacuum is used for further reactions without further purification.

reactant | 2-(2-nitrobenzylidene)-acetoacetic acid methyl ester | 55 mmol, 13.7 g | COC(C(C(=O)C)=CC1=C(C=CC=C1)[N+](=O)[O-])=O | C12H11NO5
reactant | 3-aminocrotonic acid-(4-phthalimido-butyl)ester | 55 mmol, 16.6 g | C1(C=2C(C(N1CCCCOC(\C=C(\C)/N)=O)=O)=CC=CC2)=O | C16H18N2O4
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 1,4-Dihydro-2,6-dimethyl-3-methoxycarbonyl-4-(2-nitrophenyl)-5-(4-phthalimido-butoxy)carbonyl-pyridine | CC=1NC(=C(C(C1C(=O)OC)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCCCCN1C(C=2C(C1=O)=CC=CC2)=O)C | C28H27N3O8
